US07429582B2
Preparation of N,N-dimethyl-1-[6-(1-naphthylsulfonyl)-2,3-dihydro[1,4]oxazino[2,3,4-hi]indazol-2-yl]methanamine Hydrochloride
A mixture of 7-chloromethyl-2-(naphthalene-1-sulfonyl)-7,8-dihydro-6-oxa-1,8a-diaza-acenaphthylene (0.075 g, 0.18 mmoles) and dimethylamine (0.56 ml, 1M solution in THF, 0.56 mmoles) in DMSO was stirred under nitrogen at 100° C. for 4 hours, cooled to room temperature, diluted with water and extracted with EtOAc. The extracts were combined, washed sequentially with water and brine, dried over Na2SO4 and concentrated under vacuum. The resultant residue was purified by flash chromatography using as eluent 5% CH3OH/EtOAc. The purified compound was dissolved in methanol, treated with 1M HCl in ether (0.2 ml, 0.2 mmoles) and evaporated to dryness to afford the title compound, MS: (ES) m/z 407.

reactant | 7-chloromethyl-2-(naphthalene-1-sulfonyl)-7,8-dihydro-6-oxa-1,8a-diaza-acenaphthylene | 0.18 mmoles, 0.075 g | ClCC1OC=2C=CC=C3C(=NN(C1)C32)S(=O)(=O)C3=CC=CC2=CC=CC=C32 | C20H15ClN2O3S
reactant | dimethylamine | 0.56 mmoles, 1M, 0.56 ml | CNC | C2H7N
reactant | HCl | 1M | Cl | ClH
reactant | ether | 0.2 mmoles, 0.2 ml | CCOCC | C4H10O
solvent | DMSO | CS(=O)C | C2H6OS
solvent | water | O | H2O
product | N,N-dimethyl-1-[6-(1-naphthylsulfonyl)-2,3-dihydro[1,4]oxazino[2,3,4-hi]indazol-2-yl]methanamine Hydrochloride | Cl.CN(CC1CN2N=C(C3=CC=CC(=C23)O1)S(=O)(=O)C1=CC=CC2=CC=CC=C12)C | InChI=1S/C22H21N3O3S.ClH/c1-24(2)13-16-14-25-21-18(10-6-11-19(21)28-16)22(23-25)29(26,27)20-12-5-8-15-7-3-4-9-17(15)20;/h3-12,16H,13-14H2,1-2H3;1H
